* D:\Documents\Programming\Repositories\HBridgeControl\simulation\circuit.asc
XU1 N002 0 N001 PWM_OUT PC817 Igain=2.3m
V1 PWM_IN 0 PULSE(0 3.3 .001 .001 .001 .05 .1 0)
R1 N002 PWM_IN 200
V2 N001 0 6V
R2 PWM_OUT 0 2000
.tran 5
.lib PC817.sub
.backanno
.end
